US05332831
5-Methyl-2-[(2-nitrophenyl)methoxy]benzaldehyde
Methanesulphonyl chloride (5.4 ml) was added dropwise to a stirred solution of 2-nitrobenzenemethanol (10.0 g) and triethylamine (10.1 ml) in 1,4-dioxane (10 ml) at 15°-25° C. After 30 min the mixture was filtered, washed with 1,4-dioxane (50 ml) and the filtrate added to a stirred mixture of 5-methylsalicylaldehyde (9.1 g) and potassium carbonate (9.9 g) in N,N-dimethylacetamide (50 ml). The mixture was stirred at 20° C. for 24 h, water (160 ml) was added and, after a further 1 h, the mixture was filtered. The filtrate was washed with water:1,4-dioxane (1:1; 50 ml) and water (150 ml) and dried at 40° C. in vacuo to give the title compound as a cream coloured solid (15.7 g) m.p. 124° C.

reactant | Methanesulphonyl chloride | 5.4 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | 2-nitrobenzenemethanol | 10.0 g | [N+](=O)([O-])C1=C(C=CC=C1)CO | C7H7NO3
reactant | triethylamine | 10.1 ml | C(C)N(CC)CC | C6H15N
reactant | 1,4-dioxane | 10 ml | O1CCOCC1 | C4H8O2
product | 5-Methyl-2-[(2-nitrophenyl)methoxy]benzaldehyde | 15.7 g | CC=1C=CC(=C(C=O)C1)OCC1=C(C=CC=C1)[N+](=O)[O-] | C15H13NO4
